US07678794B2
Synthesis of 4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-(3-cyano-phenyl)-benzenesulfonamide
Add 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (2.77 g, 14.2 mmol) to sodium hydride (396 mg, 15.7 mmol) in dimethylformamide (20 mL) at 0° C., stir 10 minutes, add 4-bromomethyl-N-(3-cyano-phenyl)-benzenesulfonamide (2.50 g, 7.12 mmol) in dimethylformamide (15 mL) drop wise via addition funnel. After 2 hours at ambient temperature, pour into brine (40 mL), extract with ethyl acetate (2×40 mL), dry organic phase over sodium sulfate, filter and concentrate under reduced pressure. Purify residue by flash chromatography to yield the title compound (1.17 g, 2.52 mmol): MS (m/z): 463 (M−1).

reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 14.2 mmol, 2.77 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | sodium hydride | 15.7 mmol, 396 mg | [H-].[Na+]
reactant | 4-bromomethyl-N-(3-cyano-phenyl)-benzenesulfonamide | 7.12 mmol, 2.50 g | BrCC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C#N | C14H11BrN2O2S
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | brine | 40 mL | [Cl-].[Na+].O
product | 4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-(3-cyano-phenyl)-benzenesulfonamide | 2.52 mmol, 1.17 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)S(=O)(=O)NC2=CC(=CC=C2)C#N)C=C1)CCC)O | C25H24N2O5S
